US04868257
3,5-Dibromo-4-acetoxystvrene
A mixture of 67.6 g (0.02 mole) 1-(3',5'-dibromo-4'-acetoxyphenyl)ethanol, 0.35 g freshly melted and then finely pulverized potassium hydrogen sulfate, and 0.5 g t-butylhydroquinone are heated at 20 Torr to 170°-190° C. The resulting product is distilled off (under vacuum) at a temperature of 140 to 160° C. It is taken up in ether,the ether solution is washed with Na2CO3, dried, and concentrated under vacuum. The remaining product is distilled at 0.02 mbar; the boiling pointis ll6° C. The isolated product, which is a highly viscous oil or a white, waxy solid, has a melting point of approximately 75° C. The reaction yield is 27 g.

reactant | 1-(3',5'-dibromo-4'-acetoxyphenyl)ethanol | 0.02 mole, 67.6 g | BrC=1C=C(C=C(C1OC(C)=O)Br)C(C)O | C10H10Br2O3
reactant | potassium hydrogen sulfate | S(=O)(=O)(O)[O-].[K+]
reactant | t-butylhydroquinone | 0.5 g | C(C)(C)(C)C1=C(O)C=CC(=C1)O | C10H14O2
product | 3,5-Dibromo-4-acetoxystvrene | BrC=1C=C(C=C)C=C(C1OC(C)=O)Br | C10H8Br2O2
